US05389641
23i) 2-Butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylic acid
To a solution of methyl 2-butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylate (0.1 g, 0.2 mmol) in methanol (5 ml) was added 1N aqueous NaOH (0.5 ml) and the mixture was heated under reflux for 6 hours. After concentration to dryness, the residue was dissolved in water and the solution was neutralized with 1N aqueous hydrochloric acid. The resulting precipitate was collected by filtration and washed with water. Recrystallization from aqueous methanol afforded yellow powders (80 mg, 82%), m.p. 209°-212° C.

reactant | methyl 2-butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylate | 0.2 mmol, 0.1 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=NC=NC1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H24N8O2
reactant | NaOH | 1N, 0.5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-Butyl-1-[p-[4-(1H-tetrazol-5-yl)pyrimidin-5-yl]benzyl]benzimidazole-7-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=NC=NC1)C1=NN=NN1)C(=CC=C2)C(=O)O | C24H22N8O2
